US04792547
6-(Diethylamino)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide
To a suspension of 1.13 g of 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide in 20 ml of benzene, 20 ml of diethylamine was added, and the mixture was heated for 24 hours at 80°-90 ° C. in a sealed tube. The reaction mixture was evaporated. Water was added to the residue, and then the aqueous solutron was adjusted with dilute hydrochloric acid to pH 3. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylsulfoxide and methanol affording 0.75 g of the desired compound as yellow plates, m.p. 217°-218 ° C.

reactant | 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | 1.13 g | ClC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C6H4ClN7O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
product | 6-(Diethylamino)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | C(C)N(C1=CN=CC(=N1)C(=O)NC1=NN=NN1)CC | C10H14N8O
